US07291617B2
1.56 g of tert-butyl 1-benzyl-4-piperidinyl[3-(4-cyanophenoxy)propyl]carbamate was dissolved in 20 ml of methanol, and then, 0.30 g of 5% palladium-carbon was added to the solution, followed by stirring under a hydrogen atmosphere at room temperature under an atmospheric pressure for 18 hours. After completion of the reaction, the catalyst was removed, and the solvent was then removed under a reduced pressure to obtain 1.05 g of tert-butyl 3-(4-cyanophenoxy)propyl(4-piperidinyl)carbamate.

reactant | tert-butyl 1-benzyl-4-piperidinyl[3-(4-cyanophenoxy)propyl]carbamate | 1.56 g | C(C1=CC=CC=C1)N1CCC(CC1)N(C(OC(C)(C)C)=O)CCCOC1=CC=C(C=C1)C#N | C27H35N3O3
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladium-carbon | 0.30 g | [C].[Pd]
product | tert-butyl 3-(4-cyanophenoxy)propyl(4-piperidinyl)carbamate | 1.05 g | C(#N)C1=CC=C(OCCCN(C(OC(C)(C)C)=O)C2CCNCC2)C=C1 | C20H29N3O3
